US07902252B2
Reaction of trimethyl(3-(tetrahydro-2H-pyran-2-yloxy)prop-1-ynyl)silane and (Z)-1-bromohex-2-ene according to General Procedure 11.A provided (Z)-trimethyl(3-(tetrahydro-2H-pyran-2-yloxy)non-5-en-1-ynyl)silane.

reactant | trimethyl(3-(tetrahydro-2H-pyran-2-yloxy)prop-1-ynyl)silane | C[Si](C#CCOC1OCCCC1)(C)C | C11H20O2Si
reactant | (Z)-1-bromohex-2-ene | BrC\C=C/CCC | C6H11Br
product | (Z)-trimethyl(3-(tetrahydro-2H-pyran-2-yloxy)non-5-en-1-ynyl)silane | C[Si](C#CC(C\C=C/CCC)OC1OCCCC1)(C)C | C17H30O2Si
